US08426604B2
2-(Allyl-methyl-amino)-5-[1-(4-chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-thiazol-4-one was prepared from 2-(allyl-methyl-amino)-thiazol-4-one and 1-(4-chloro-2-trifluoromethyl-benzyl)-1H-indazole-5-carbaldehyde following General Procedure E.

reactant | 2-(allyl-methyl-amino)-thiazol-4-one | C(C=C)N(C=1SCC(N1)=O)C | C7H10N2OS
reactant | 1-(4-chloro-2-trifluoromethyl-benzyl)-1H-indazole-5-carbaldehyde | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=O)C=C1)C(F)(F)F | C16H10ClF3N2O
product | 2-(Allyl-methyl-amino)-5-[1-(4-chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-thiazol-4-one | C(C=C)N(C=1SC(C(N1)=O)=CC=1C=C2C=NN(C2=CC1)CC1=C(C=C(C=C1)Cl)C(F)(F)F)C | C23H18ClF3N4OS
